USRE030352
Preparation of N,N'-bis(4-nitro-2-chlorophenyl)terephthalamide
In a 1 l. three-neck round bottom flask provided with a stirrer, nitrogen inlet and drying tube, a solution of 52.56 g. (0.3 mole) 4-nitro-2-chloroaniline (recrystallized from water) in 250 ml. of distilled hexamethylphosphoramide is prepared. The solution is cooled with an ice bath, and 30.45 g. (0.15 mole) terephthaloyl chloride is added in small portions over a period of 11/2 hours. After the addition is completed, the ice-bath is removed. A precipitate forms in four hours and the resulting suspension is stirred for 20 hours. After this period 1 l, of water is added to precipitate the product. The pale yellow powder is filtered, and washed two times with hot water in a blender. After being dried at 80° C. in a vacuum oven, 68.2 g. (95 percent of theoretical) of product is obtained; m.p. 339° C. (determined by Differential Thermal Analysis).

reactant | 4-nitro-2-chloroaniline | 0.3 mole | [N+](=O)([O-])C1=CC(=C(N)C=C1)Cl | C6H5ClN2O2
reactant | terephthaloyl chloride | 0.15 mole | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
solvent | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | N,N'-bis(4-nitro-2-chlorophenyl)terephthalamide | [N+](=O)([O-])C1=CC(=C(C=C1)NC(C1=CC=C(C(=O)NC2=C(C=C(C=C2)[N+](=O)[O-])Cl)C=C1)=O)Cl | C20H12Cl2N4O6
